US09328099B2
To a pressure vessel was added (1R,2S and 1S,2R)-4-oxo-2-(phenylsulfonyl) cyclohexanecarbonitrile (100 mg, 0.380 mmol), benzene (19.0 mL), ethylene glycol (0.90 mL, 16 mmol), and p-toluenesulfonic acid monohydrate (14 mg, 0.076 mmol). The vessel was capped and the reaction mixture was heated to reflux and allowed to stir for 16 hours. The reaction mixture was allowed to cool to ambient temperature before it was diluted with EtOAc. The organic layer was washed with water (3×), brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo (23° C. water bath) to afford (7S,8R and 7R,8S)-7-(phenylsulfonyl)-1,4-dioxaspiro[4.5]decane-8-carbonitrile as a crude residue. To the crude residue (110 mg, 0.358 mmol) was added THF (7.1 mL) and potassium tert-butoxide (137 mg, 1.22 mmol). The reaction mixture was allowed to stir at ambient temperature for 15 minutes before it was diluted with diethyl ether. The organic layer was washed with water, brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo (23° C. water bath) to afford the title compound.

reactant | 4-oxo-2-(phenylsulfonyl) cyclohexanecarbonitrile | 0.380 mmol, 100 mg | O=C1CC(C(CC1)C#N)S(=O)(=O)C1=CC=CC=C1 | C13H13NO3S
reactant | benzene | 19.0 mL | C1=CC=CC=C1 | C6H6
reactant | ethylene glycol | 16 mmol, 0.90 mL | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid monohydrate | 0.076 mmol, 14 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(phenylsulfonyl)-1,4-dioxaspiro[4.5]decane-8-carbonitrile | C1(=CC=CC=C1)S(=O)(=O)C1CC2(OCCO2)CCC1C#N | C15H17NO4S
